US04495272
In a mixture composed of 80 g (2.0 mols) of sodium hydroxide, 400 ml of water and 4 ml of nitrobenzene was dissolved 178 g (2.0 mols) of β-alanine with stirring and the resulting solution was cooled to 0° C. To the aqueous solution, there were simultaneously added dropwise 230 g (2.2 mols) of methacrylic chloride and an aqueous solution containing 96 g (2.4 mols) of sodium hydroxide dissolved in 200 ml of water. After the completion of the reaction, 800 ml of acetonitrile was added to the reaction solution and the mixture was then acidified by adding 160 ml of concentrated hydrochloric acid. 1 Liter of acetonitrile was further added to extract and the acetonitrile layer was separated. The acetonitrile solution was concentrated and the crystals thus deposited were collected and recrystallized from ethyl acetate to obtain 142 g of N-methacryloyl-β-alanine.

reactant | sodium hydroxide | 2.0 mols, 80 g | [OH-].[Na+]
reactant | nitrobenzene | 4 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | β-alanine | 2.0 mols, 178 g | NCCC(=O)O | C3H7NO2
reactant | methacrylic chloride | 2.2 mols, 230 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 2.4 mols, 96 g | [OH-].[Na+]
reactant | hydrochloric acid | 160 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 400 ml | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | N-methacryloyl-β-alanine | 142 g | C(C(=C)C)(=O)NCCC(=O)O | C7H11NO3
